US08809342B2
A 5 mL vial equipped with magnetic stirrer was charged with 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinic acid (0.200 g, 0.467 mmol) as prepared in Example 1.1 using racemic 2-methylpropane-2-sulfinamide in Step B, O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl uronium hexafluorophosphate (266.0 mg, 0.700 mmol), N-methylmorpholine (236.1 mg, 2.334 mmol), N,N-dimethylformamide (2.4 mL). The mixture was purged with nitrogen, heated to 30° C. and stirred for 30 minutes. Then 2-aminoethanesulfonic acid (58.4 mg, 0.467 mmol) was added. The mixture was stirred at 30° C. for 2 h. The reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with water (2×20 mL) and dried over sodium sulfate, filtered and concentrated. Purification by prep-HPLC provided (+/−)-2-(6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinamido) ethanesulfonic acid (89.6 mg, 35.8%) as a white solid. 1H NMR (400 MHz, CD3OD, δ): 8.41 (s, 1H), 8.29 (m, 1H), 8.25-8.19 (m, 1H), 7.88 (d, 2H), 7.78-7.70 (m, 4H), 7.54 (d, 2H), 7.13 (d, 1H), 5.05-4.92 (m, 1H), 3.76 (t, 2H), 3.06 (t, 2H), 1.88-1.82 (m, 1H), 1.72-1.62 (m, 2H), 1.07 (d, 3H), 1.04 (d, 3H) ppm. MS (M+1): 536.2.

reactant | 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinic acid | 0.467 mmol, 0.200 g | CC(CC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)O)C=C1)C | C24H23F3N2O2
reactant | racemic 2-methylpropane-2-sulfinamide | CC(C)(C)S(=O)N | C4H11NOS
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyl uronium hexafluorophosphate | 0.700 mmol, 266.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 2.334 mmol, 236.1 mg | CN1CCOCC1 | C5H11NO
reactant | 2-aminoethanesulfonic acid | 0.467 mmol, 58.4 mg | NCCS(=O)(=O)O | C2H7NO3S
solvent | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 2.4 mL | CN(C=O)C | C3H7NO
product | (+/−)-2-(6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinamido) ethanesulfonic acid | 89.6 mg, 35.8% | CC(CC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)NCCS(=O)(=O)O)C=C1)C | C26H28F3N3O4S
